US07557114B2
(b) 5-((2S,6R)-2,6-Dimethyl-tetrahydro-pyran-4-yl)-2,3-dihydro-1H-isoindole
Prepared in analogy to Example A62(c) from 2-benzyl-5-((2S,6R)-2,6-dimethyl-3,6-dihydro-2H-pyran-4-yl)-2,3-dihydro-1H-isoindole and hydrogen. Brown oil. MS (m/e): 232.1 ([M+H]+, 100%).

reactant | 2-benzyl-5-((2S,6R)-2,6-dimethyl-3,6-dihydro-2H-pyran-4-yl)-2,3-dihydro-1H-isoindole | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C=1C[C@@H](O[C@@H](C1)C)C | C22H25NO
reactant | hydrogen | [H][H] | H2
product | 5-((2S,6R)-2,6-Dimethyl-tetrahydro-pyran-4-yl)-2,3-dihydro-1H-isoindole | C[C@@H]1O[C@@H](CC(C1)C=1C=C2CNCC2=CC1)C | C15H21NO
